US06410585B1
5-{(2S)-2-({(2S)-2-[(tert-Butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[(4-methoxybenzyl)amino]-3-oxopropyl}-2-(carboxymethoxy)benzoic Acid
Synthesis was performed from (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid and 4-methoxybenzylamine (40 mg) according to Method B to give the title compound (33 mg). 1H-NMR (400 MHz, CD3OD) d 7.75 (s, 1H), 7.34 (dd, 1H), 7.26-7.18 (m, 5H), 7.05 (d, J=8.6 Hz, 1H), 6.94 (d, J=8.6 Hz, 2H), 6.82 (m, 2H), 4.77 (s, 2H), 4.56 (m, 1H), 4.15 (dd, J=5.1 Hz, J=14.7 Hz, 1H), 3.76 (s, 3H), 3.08-2.94 (m, 3H), 2.76 (dd, J=9.6 Hz, J=13.7 Hz, 1H), 1.33 (s, 9H); HRMS m/z 649.2615 (calc. of monoisotopic mass for C34H39N3O10 gives 649.2635).

reactant | (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)OCC(=O)OC)C(=O)OC)CC1=CC=CC=C1 | C28H34N2O10
reactant | 4-methoxybenzylamine | 40 mg | COC1=CC=C(CN)C=C1 | C8H11NO
product | 5-{(2S)-2-({(2S)-2-[(tert-Butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[(4-methoxybenzyl)amino]-3-oxopropyl}-2-(carboxymethoxy)benzoic Acid | 33 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@@H](CC=1C=CC(=C(C(=O)O)C1)OCC(=O)O)C(=O)NCC1=CC=C(C=C1)OC)CC1=CC=CC=C1 | C34H39N3O10
